US07955664B2
11.1 g (44.3 mmol) of 6-fluoro-3-pentylchroman-7-carbaldehyde are dissolved in 100 ml of ethanol, and 2.0 g (52.8 mmol) of sodium borohydride are added in portions. After 3 h, the batch is diluted with water and extracted three times with MTB ether. The combined org. phases are washed with sat. sodium chloride soln. and dried over sodium sulfate, the solvent is removed in vacuo, and the residue is filtered through silica gel with dichloromethane (Rf=0.3), giving (6-fluoro-3-pentylchroman-7-yl)methanol as a colourless solid.

reactant | 6-fluoro-3-pentylchroman-7-carbaldehyde | 44.3 mmol, 11.1 g | FC=1C=C2CC(COC2=CC1C=O)CCCCC | C15H19FO2
reactant | sodium borohydride | 52.8 mmol, 2.0 g | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | (6-fluoro-3-pentylchroman-7-yl)methanol | FC=1C=C2CC(COC2=CC1CO)CCCCC | C15H21FO2
